US07741321B2
To a suspension of t-BuOK (4.8 g, 40 mmol) in THF (30 mL) was added a solution of TosMIC (3.9 g, 20 mmol) in THF (10 mL) at −78° C. The mixture was stirred for 10 minutes, treated with a solution of 3-chloro-4-methoxy-benzaldehyde (1.65 g, 10 mmol) in THF (10 mL) dropwise, and continued to stir for 1.5 hours at −78° C. To the cooled reaction mixture was added methanol (10 mL). The mixture was heated at reflux for 30 minutes. Solvent of the reaction mixture was removed to give a crude product, which was dissolved in water (20 mL). The aqueous phase was extracted with EtOAc (20 mL×3). The combined organic layers were dried and evaporated under reduced pressure to give crude product, which was purified by column chromatography (Petroleum Ether/EtOAc 10:1) to afford 2-(3-chloro-4-methoxyphenyl)acetonitrile (1.5 g, 83%). 1H NMR (400 MHz, CDCl3) δ 7.33 (d, J=2.4 Hz, 1H), 7.20 (dd, J=2.4, 8.4 Hz, 1H), 6.92 (d, J=8.4 Hz, 1H), 3.91 (s, 3H), 3.68 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 154.8, 129.8, 127.3, 123.0, 122.7, 117.60, 112.4, 56.2, 22.4.

reactant | t-BuOK | 40 mmol, 4.8 g | CC(C)(C)[O-].[K+]
reactant | TosMIC | 20 mmol, 3.9 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | 3-chloro-4-methoxy-benzaldehyde | 10 mmol, 1.65 g | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-(3-chloro-4-methoxyphenyl)acetonitrile | 1.5 g, 83% | ClC=1C=C(C=CC1OC)CC#N | C9H8ClNO
